US04163848
The method according to claim 1 wherein ethyl isobutyrimidate hydrochloride is neutralized by trimethylamine dissolved in toluene, the free ethyl isobutyrimidate is freed from water by azeotropic distillation; then the dry ethyl isobutyrimidate in toluene is reacted with an excess of diketene dissolved in toluene in the presence of trimethylamine and the resulting organic solution is treated with gaseous ammonia, in molar equivalent amounts and subsequent azeotropic removal of water to form 2-isopropyl-4-methyl-6-hydroxypyrimidine which is dried and recovered from said organic solvent.

reactant | ethyl isobutyrimidate hydrochloride | Cl.C(C(C)C)(OCC)=N
reactant | ammonia | N | H3N
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | trimethylamine | CN(C)C | C3H9N
product | 2-isopropyl-4-methyl-6-hydroxypyrimidine | C(C)(C)C1=NC(=CC(=N1)C)O | C8H12N2O
